US07494996B2
To a slurry of 4.54 g of 4-chlorobenzoyl methyl glycine (20 mmol) in 60 ml of toluene under an atmosphere of nitrogen was added 0.89 g (20 mmol) of phosphorus pentasulfide. The reaction was heated to 90° C. for 3 hours. An additional 0.18 g of phosphorus pentasulfide was added, and the reaction was heated for an additional 1 hour, then cooled to room temperature. The product was filtered, the slurry was washed with ethyl acetate, and the combined filtrates were run through silica gel on Gelite, then stripped. The product was chromatographed on a silica gel column to give 3.3 g (68% yield) of 4-chlorothiobenzoyl methylglycine, melting point 72-73° C.

reactant | 4-chlorobenzoyl methyl glycine | 20 mmol, 4.54 g | ClC1=CC=C(C(=O)N(CC(=O)O)C)C=C1 | C10H10ClNO3
reactant | phosphorus pentasulfide | 20 mmol, 0.89 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
catalyst | phosphorus pentasulfide | 0.18 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
product | 4-chlorothiobenzoyl methylglycine | 3.3 g, 68% yield | ClC1=CC=C(C(=S)N(CC(=O)O)C)C=C1 | C10H10ClNO2S
